US08877779B2
2-{3-[1-(5-hydroxyacenaphthen-1-yl)piperidin-4-yl]-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide
2-{3-[1-(5-Methoxyacenaphthen-1-yl)piperidin-4-yl]-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide (780 mg) was dissolved in dichloromethane (50 ml), a solution (8.0 ml) of boron tribromide (1.0 mol) in dichloromethane was added dropwise under a nitrogen stream while cooling to −50° C., and the mixture was gradually warmed over 1 hr. After completion of the reaction, the reaction mixture was poured into an aqueous potassium carbonate solution by small portions, during which unnecessary substances were dissolved in acetone), the mixture was extracted with chloroform, and the extract was dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by NH-coating silica gel column chromatography to give a crude product of the title compound.

reactant | 2-{3-[1-(5-Methoxyacenaphthen-1-yl)piperidin-4-yl]-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide | 780 mg | COC1=CC=C2CC(C=3C=CC=C1C32)N3CCC(CC3)N3C(N(C2=C3C=CC=C2)CC(=O)NC)=O | C28H30N4O3
reactant | boron tribromide | 1.0 mol, 8.0 ml | B(Br)(Br)Br | BBr3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
product | 2-{3-[1-(5-hydroxyacenaphthen-1-yl)piperidin-4-yl]-2,3-dihydro-2-oxo-benzimidazol-1-yl}-N-methylacetamide | OC1=CC=C2CC(C=3C=CC=C1C32)N3CCC(CC3)N3C(N(C2=C3C=CC=C2)CC(=O)NC)=O | C27H28N4O3
